US07511067B2
a) methyl 2-benzyloxy-5-[2-(1,1-dimethyl-3-[1,2,4]triazol-4-yl-propylimino)-acetyl]-benzoate
16 g of methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate and 6 g of 1,1-dimethyl-3-[1,2,4]triazol-4-yl-propylamine are heated to 70° C. for one hour in 100 mL ethanol. Then half the solvent is distilled off and the mixture remaining is cooled. The product that crystallises out is suction filtered and washed with ethanol and diethyl ether.

reactant | methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate | 16 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(C(O)OCC)=O | C19H20O6
reactant | 1,1-dimethyl-3-[1,2,4]triazol-4-yl-propylamine | 6 g | CC(CCN1C=NN=C1)(C)N | C7H14N4
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | methyl 2-benzyloxy-5-[2-(1,1-dimethyl-3-[1,2,4]triazol-4-yl-propylimino)-acetyl]-benzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(C=NC(CCN1C=NN=C1)(C)C)=O | C24H26N4O4
